US07893062B2
a) rac-N-((3S,4R)-1-Benzyl-4-o-tolyl-pyrrolidin-3-yl)-2-(3,5-dichloro-phenyl)-N-methyl-isobutyramide (VI-9)
A solution of 2-(3,5-dichloro-phenyl)-2-methyl-propionyl chloride (the preparation of which is described in WO2005002577) (127 mg, 0.50 mmol) in CH2Cl2 (5 ml) was added drop wise to a stirred solution of ((3S,4R)-1-benzyl-4-o-tolyl-pyrrolidin-3-yl)-methyl-amine (the preparation of which is described herein above) (135 mg, 0.48 mmol) and ethyl-diisopropyl-amine (0.12 ml, 0.72 mmol) in CH2Cl2 (5 ml). The reaction mixture was stirred 2 h, concentrated under vacuo and purification by flash chromatography (SiO2, EtOAc/H, 1:3) yielded 0.18 g (75%) of the title product as colorless oil.

reactant | 2-(3,5-dichloro-phenyl)-2-methyl-propionyl chloride | ClC=1C=C(C=C(C1)Cl)C(C(=O)Cl)(C)C | C10H9Cl3O
reactant | ((3S,4R)-1-benzyl-4-o-tolyl-pyrrolidin-3-yl)-methyl-amine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=C(C=CC=C1)C)NC | C19H24N2
reactant | ethyl-diisopropyl-amine | 0.72 mmol, 0.12 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | rac-N-((3S,4R)-1-Benzyl-4-o-tolyl-pyrrolidin-3-yl)-2-(3,5-dichloro-phenyl)-N-methyl-isobutyramide | 0.18 g, 75% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=C(C=CC=C1)C)N(C(C(C)(C)C1=CC(=CC(=C1)Cl)Cl)=O)C | C29H32Cl2N2O
